US07452894B2
9-(3-Acetamidobenzyl)-6-(2-furyl)-9H-purine-2-amine (Example 205)
An ice-cold solution of 9-(3-aminobenzyl)-6-(2-furyl)-9H-purine-2-amine (145 mg, 0.48 mmol) in pyridine (3 mL) was treated with acetyl chloride (38 μL, 0.53 mmol), stirred for 1 h, quenched with water, extracted with EtOAc, dried (MgSO4), concentrated in vacuo and purified by chromatography (SiO2: Hexane:EtOAc (1:3) to EtOAc:MeOH (99:1)) to give the title compound (71 mg, 43%) as a yellow solid.

reactant | 9-(3-aminobenzyl)-6-(2-furyl)-9H-purine-2-amine | 0.48 mmol, 145 mg | NC=1C=C(CN2C3=NC(=NC(=C3N=C2)C=2OC=CC2)N)C=CC1 | C16H14N6O
reactant | acetyl chloride | 0.53 mmol, 38 μL | C(C)(=O)Cl | C2H3ClO
solvent | pyridine | 3 mL | N1=CC=CC=C1 | C5H5N
product | 9-(3-Acetamidobenzyl)-6-(2-furyl)-9H-purine-2-amine | 71 mg, 43% | C(C)(=O)NC=1C=C(CN2C3=NC(=NC(=C3N=C2)C=2OC=CC2)N)C=CC1 | C18H16N6O2
